US06660873B2
1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic Acid Amide
A stirred suspension of 1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic acid (1 g, 3.7 mmol) in thionyl chloride (25 mL) was heated at reflux for 25 min, during which time the solid dissolved. The thionyl chloride was then evaporated, and the residue was dissolved in toluene, and again evaporated. The residue was dissolved in toluene (15 mL) and was treated with a solution of ammonia in ether and a heavy precipitate formed. The mixture was stirred overnight, diluted with toluene and aqueous ammonia solution, and filtered. The residue was dried to give the title compound as a white solid (0.80 g, 80%). 1H NMR (d6-DMSO): δ 6.81 (s, 1H), 7.25 (t, 2H), 7.40 (dd, 2H), 7.54 (d, 1H), 7.59 (bs, 1H), 8.24 (bs, 1H), 8.24 (dd, 1H), 8.42 (s, 1H).

reactant | 1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic acid | 3.7 mmol, 1 g | FC1=CC=C(C=C1)C1OC(C2=CC(=CC=C12)C(=O)O)=O | C15H9FO4
reactant | ammonia | N | H3N
solvent | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic Acid Amide | 0.80 g, 80% | FC1=CC=C(C=C1)C1OC(C2=CC(=CC=C12)C(=O)N)=O | C15H10FNO3
